US04052407
2 ml of 1 N sodium hydroxide was dropwise added under nitrogen atmosphere and under ice-cooling to a solution of 175 mg of 4-(6-carbomethoxyhexyl)-5-(3-keto-1-trans-octenyl)-thiazole (Ia, R1 = H) in 5 ml of ethanol. The solution was subsequently stirred for 1.5 hours at room temperature. Then the reaction mixture was poured onto 30 ml of icewater, acidified with 1 N hydrochloric acid and extracted with 3 × 15 ml of ethyl acetate. The ethyl acetate extract was dried over sodium sulphate and evaporated in vacuo. The evaporation residue was purified by preparative thin layer chromatography, using a silica gel layer as adsorbent and the organic phase of a mixture of 110 ml of ethyl acetate, 50 ml of n-heptane, 100 ml of water and 20 ml of acetic acid as running solvent. In this way 71 mg of 4-(6-carboxyhexyl)-5-(3-keto-1-trans-octenyl)-thiazole (Ib, R1 = H) of chromatographic purity were obtained. The m.p. and spectroscopical data of the product agreed with those specified in Example 5.

reactant | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
reactant | 4-(6-carbomethoxyhexyl)-5-(3-keto-1-trans-octenyl)-thiazole | 175 mg | C(=O)(OC)CCCCCCC=1N=CSC1\C=C\C(CCCCC)=O | C19H29NO3S
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(6-carboxyhexyl)-5-(3-keto-1-trans-octenyl)-thiazole | 71 mg | C(=O)(O)CCCCCCC=1N=CSC1\C=C\C(CCCCC)=O | C18H27NO3S
